US07129238B2
(RS)-[5-Ethoxy-2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-2-methoxy-acetamide. Colorless foam. MS 456.5 ([M+H]+)

reactant | (RS)-[5-Ethoxy-2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-methoxy-acetic acid | C(C)OC=1C=C(C(=C(C1)C(C(=O)O)OC)F)OC1CCN(CC1)C | C17H24FNO5
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-[5-ethoxy-2-fluoro-3-(1-methyl-piperidin-4-yloxy)-phenyl]-2-methoxy-acetamide | C(#N)C1=CC=C(CNC(C(OC)C2=C(C(=CC(=C2)OCC)OC2CCN(CC2)C)F)=O)C=C1 | C25H30FN3O4
